US08119686B2
(i) Synthesis of bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclohexane
To a solution of 2,6-di-t-butyl-4-mercaptophenol (3.00 g, 12.60 mmol) in methanol (10 mL) was added cyclohexanone (1.40 mL, 13.80 mmol) and a catalytic amount of concentrated hydrochloric acid. The mixture was stirred at a room temperature for 2 hours and then heated under reflux for one hour. The mixture was allowed to cool. Thereafter, the generated precipitate was separated by a filtration and dried to synthesize objective bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclohexane (yield 2.50 g and 71%).

reactant | 2,6-di-t-butyl-4-mercaptophenol | 12.60 mmol, 3.00 g | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | cyclohexanone | 13.80 mmol, 1.40 mL | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclohexane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1(CCCCC1)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C34H52O2S2
